US06110914
5'-Phenylspiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine]
Under a nitrogen atmosphere, 5'-bromospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] (118 mg, 0.4 mmol), phenylboronic acid (54 mg, 0.443 mmol), and tetrakis(triphenylphosphine)palladium(0) (11 mg, 2.3 mol %) were stirred in a solution of 1,2-dimethoxyethane (3 mL) and ethanol (0.75 mL) containing 2M aqueous sodium carbonate (0.65 mL, 1.3 mmol). The mixture was heated under reflux for 18 hours. The reaction mixture was then evaporated under reduced pressure, the residue was dissolved in chloroform (15 mL), and the extract was washed with saturated aqueous sodium carbonate (5 mL). The aqueous layer was extracted with chloroform (2×15 mL), and the organic layers were combined, dried (MgSO4), filtered, and evaporated under reduced pressure. Purification by flash chromatography through silica gel, eluting with ammoniated chloroform/methanol (95:5 to 9:1), provided the title compound (80 mg, 0.274 mmol, 68%) as a tan solid: electrospray MS 293 ([MH]+, 100).

reactant | 5'-bromospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | 0.4 mmol, 118 mg | BrC=1C=C2C(=NC1)OC1(C2)CN2CCC1CC2 | C13H15BrN2O
reactant | phenylboronic acid | 0.443 mmol, 54 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 1,2-dimethoxyethane | 3 mL | COCCOC | C4H10O2
reactant | sodium carbonate | 1.3 mmol, 2M, 0.65 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 11 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 0.75 mL | C(C)O | C2H6O
product | 5'-Phenylspiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | 0.274 mmol, 80 mg, 68% | C1(=CC=CC=C1)C=1C=C2C(=NC1)OC1(C2)CN2CCC1CC2 | C19H20N2O
